US07094801B2
4-{3E-[5-(2,4-Dimethoxy-pyrimidin-5-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 5-(2,4-dimethoxy-pyrimidin-5-yl)-2,4-dimethoxy-benzaldehyde (Ex-38A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 203–205° C., 22% yield. 1H-NMR (DMSO-d6) δ 8.11–9.15 (m, 3H), 7.99–8.06 (m, 3H), 7.88 (s, 1H), 7.76 (d, J=17 Hz, 1H), 6.76 (s, 1H), 3.96 (s, 3H), 3.90 (s, 3H), 3.83 (s, 3H) 3.81 (s, 3H). MS m/z=451 ([M+H]+). HRMS (ES+) Calcd. for C24H22N2O7: 451.1505. Found: 451.1524.

reactant | 5-(2,4-dimethoxy-pyrimidin-5-yl)-2,4-dimethoxy-benzaldehyde | COC1=NC=C(C(=N1)OC)C=1C(=CC(=C(C=O)C1)OC)OC | C15H16N2O5
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[5-(2,4-Dimethoxy-pyrimidin-5-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid | 22% yield | COC1=NC=C(C(=N1)OC)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC)OC | C24H22N2O7
